US07906517B2
1-(2-{(3,5-Bis-trifluoromethyl-benzyl)-[2-(ethoxycarbonyl-ethyl-amino)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-5-yl)-ethyl piperidine-4-carboxylate (70 mg) is dissolved in ethanol (4 ml), and thereto is added 1N-aqueous sodium hydroxide solution (1 ml) and the mixture is stirred at room temperature for 2 hours. To the reaction solution are added a 1N-hydrochloric acid and ethyl acetate, and the mixture is separated, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (chloroform:methanol=1:0→9:1) to give 1-(2-{(3,5-bis-trifluoromethyl-benzyl)-[2-(ethoxycarbonyl-ethyl-amino)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-5-yl)-piperidine-4-carboxylic acid (44 mg). The resulting 1-(2-{(3,5-bis-trifluoromethyl-benzyl)-[2-(ethoxycarbonyl-ethyl-amino)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-5-yl)-piperidine-4-carboxylic acid (44 mg) is dissolved in ethanol (1 ml), and thereto is added 1N-aqueous sodium hydroxide solution (44 μl), and then the mixture is concentrated under reduced pressure to give 1-(2-{(3,5-bis-trifluoromethyl-benzyl)-[2-(ethoxycarbonyl-ethyl-amino)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-5-yl)-piperidine-4-carboxylic acid sodium salt (45 mg). MS (m/z): 720 [M−Na]−

reactant | 1-(2-{(3,5-bis-trifluoromethyl-benzyl)-[2-(ethoxycarbonyl-ethyl-amino)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-5-yl)-piperidine-4-carboxylic acid | 44 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)N2CCC(CC2)C(=O)O)CC2=C(C=CC(=C2)C(F)(F)F)N(CC)C(=O)OCC)C=C(C1)C(F)(F)F)(F)F | C32H32F9N5O4
reactant | sodium hydroxide | 44 μl | [OH-].[Na+]
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | 1-(2-{(3,5-bis-trifluoromethyl-benzyl)-[2-(ethoxycarbonyl-ethyl-amino)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-5-yl)-piperidine-4-carboxylic acid sodium salt | 45 mg | [Na+].FC(C=1C=C(CN(C2=NC=C(C=N2)N2CCC(CC2)C(=O)[O-])CC2=C(C=CC(=C2)C(F)(F)F)N(CC)C(=O)OCC)C=C(C1)C(F)(F)F)(F)F | InChI=1S/C32H32F9N5O4.Na/c1-3-46(29(49)50-4-2)26-6-5-22(30(33,34)35)13-21(26)18-45(17-19-11-23(31(36,37)38)14-24(12-19)32(39,40)41)28-42-15-25(16-43-28)44-9-7-20(8-10-44)27(47)48;/h5-6,11-16,20H,3-4,7-10,17-18H2,1-2H3,(H,47,48);/q;+1/p-1
